datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:22])([H:23])[H:24])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10].[H:8][H:25],0.0
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[O:7][H:8]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][O:7][H:8],3.903672
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:8]([C:9](=[C:10]([H:14])[H:15])[H:13])([H:11])[H:12])[H:4],53.4715
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21](=[C:22]([C:23]([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[C:23]([C:22](=[C:21]([H:27])[H:28])[H:29])([C:24]([H:30])([H:31])[H:32])[C:25](=[C:26]([H:34])[H:35])[H:33])[H:11])([H:9])[H:10],60.0404
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([C:13]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:12]([C:11]([C:10](=[C:9]([H:14])[H:15])[H:16])[H:17])([C:13]([H:19])([H:20])[H:21])[H:18])[H:4],30.3758
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[S:14][H:21])([H:15])([H:16])[H:17]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[S:14][H:21],-10.8784
[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8]>>[H:8].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],363.5896
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:16])([H:17])[H:18])[C:5]([C:6]([C:7]([C:8]([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([C:4]([H:16])([H:17])[H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([C:9]([H:25])([H:26])[H:27])[C:10](=[C:11]([H:29])[H:30])[H:28])[H:14])([H:12])[H:13],73.7221
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:19][O:20][H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:18][O:19][O:20][H:21],41.84
[C:0](=[C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([O:4][O:5][H:13])([H:11])[H:12])([H:6])[H:7].[O:14][O:15][H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([O:4][O:5][H:13])([H:11])[H:12])([H:6])([H:7])[O:14][O:15][H:16],32.6352
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:16]([C:15]([H:23])([H:24])[H:25])([c:17]1[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]1[H:31])[H:26])[H:7],33.7649
[S:0][S:1][H:2].[S:3][S:4][H:5]>>[H:2][S:3][S:4][H:5].[S:0][S:1],-6.995648
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18][C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[C:18](=[C:17]([H:20])[H:21])[C:19]([H:22])([H:23])[H:24])[H:7],13.2633
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:10],95.1442
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5]([C:6](=[C:7]([C:8]([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:19])[H:18])([H:16])[H:17])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([H:18])=[C:7]([H:19])[C:8]1([C:9](=[C:10]([H:22])[H:23])[H:21])[H:20])[H:11],139.578
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6][H:7])([H:16])[H:17])[H:12])([H:10])[H:11])([H:8])[H:9],83.68
[C:0](=[C:1]([C:2](=[C:3][c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5][c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:14])[H:13])[H:12])([H:10])[H:11],121.557752
